US06727264B1
N-(3-{1-[3-(5,5-DIMETHYL-1,3-DIOXAN-2-YL)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure G and Scheme B1 using 2-(3-bromopropyl)-5,5-dimethyl-1,3-dioxane and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 403.2 (M+H)+.

reactant | 2-(3-bromopropyl)-5,5-dimethyl-1,3-dioxane | BrCCCC1OCC(CO1)(C)C | C9H17BrO2
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(3-{1-[3-(5,5-DIMETHYL-1,3-DIOXAN-2-YL)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | CC1(COC(OC1)CCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C | C24H38N2O3
